* Auto-generated by spice_v2/generate_spice_dataset.py
* sample_id=20365 cell=XOR2 corner=ff
.title XOR2 seed characterization sample 20365
.option method=gear reltol=1e-4 abstol=1e-12 vntol=1e-6
.temp 52.8667
.include "gf180mcu-pdk/libraries/gf180mcu_fd_pr/latest/models/ngspice/design.ngspice"
.lib "gf180mcu-pdk/libraries/gf180mcu_fd_pr/latest/models/ngspice/sm141064.ngspice" ff

VDD vdd 0 1.94596
Vin in 0 PULSE(0 1.94596 2.000000e-09 4.683882e-10 4.683882e-10 2.000000e-08 4.000000e-08)
Vb b 0 1.94596

        * XOR2 A1->Z arc with A2 held at VDD:
        * out = in xor b, b = VDD. Internal inverters create abar and bbar.
Xna_inv abar in 0 0 nmos_3p3 W=2.78308u L=0.28u
Xpa_inv abar in vdd vdd pmos_3p3 W=7.47972u L=0.28u
Xnb_inv bbar b 0 0 nmos_3p3 W=2.78308u L=0.28u
Xpb_inv bbar b vdd vdd pmos_3p3 W=7.47972u L=0.28u
Xnpass_a out bbar in 0 nmos_3p3 W=3.47885u L=0.28u
Xppass_a out b in vdd pmos_3p3 W=9.34966u L=0.28u
Xnpass_abar out b abar 0 nmos_3p3 W=3.47885u L=0.28u
Xppass_abar out bbar abar vdd pmos_3p3 W=9.34966u L=0.28u

Cload out 0 7.182808e-14

.tran 2p 1.200000e-07
.measure tran tphl TRIG v(in) VAL=0.972982 RISE=1 TARG v(out) VAL=0.972982 FALL=1
.measure tran tplh TRIG v(in) VAL=0.972982 FALL=1 TARG v(out) VAL=0.972982 RISE=1
.measure tran i_vdd_avg AVG i(VDD) FROM=5.000000e-09 TO=1.100000e-07
.measure tran power_avg_uW PARAM='-1.94596*i_vdd_avg*1e6'
.end
